US07691882B2
2-(4-(2-Nitro-ethyl)-benzyloxy)-pyridine
To a solution of 2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine described in Manufacturing Example 230-1-3 (30.8 g, 120 mmol) and acetic acid (7.4 mL) in dimethyl sulfoxide (150 mL) was added sodium borohydrate (2.45 g, 64.8 mmol) at 30° C. or below. The reaction solution was stirred for 40 minutes at room temperature. Water, ethyl acetate and diethyl ether were added to the reaction solution at 30° C. or below, which was partitioned into aqueous and organic layers. The aqueous layer was extracted with ethyl acetate. The previously obtained organic layer and the ethyl acetate layer were combined, washed with water (3 times) and aqueous sodium chloride (once), dried over anhydrous magnesium sulfate, and then filtered. The filtrate was concentrated under a reduced pressure. The residue was purified by NH silica gel column chromatography (ethyl acetate:heptane=1:4) to obtain the title compound (15.2 g, 49%).

reactant | 2-(4-((E)-2-nitro-vinyl)-benzyloxy)-pyridine | [N+](=O)([O-])/C=C/C1=CC=C(COC2=NC=CC=C2)C=C1 | C14H12N2O3
reactant | acetic acid | 7.4 mL | C(C)(=O)O | C2H4O2
reactant | sodium borohydrate | 64.8 mmol, 2.45 g | [B-].[Na+]
reactant | Water | O | H2O
solvent | dimethyl sulfoxide | 150 mL | CS(=O)C | C2H6OS
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 2-(4-(2-Nitro-ethyl)-benzyloxy)-pyridine | 15.2 g, 49% | [N+](=O)([O-])CCC1=CC=C(COC2=NC=CC=C2)C=C1 | C14H14N2O3
